US08980877B2
(±)-(E)-3-[1′-(2-Phenyl-ethyl)-4-oxo-spiro(chromane-2,4′-azepane)-6-yl]-acrylic acid methyl ester was obtained starting from the hydrochloride salt of (±)-(E)-3-[4-oxo-spiro(chromane-2,4′-azepane)-6-yl]-acrylic acid methyl ester (1 g, 2.85 mmol, Intermediate 3) and phenethyl bromide (0.846 ml, 6.27 mmol), according to the procedure described in Example 24, Step A. The reaction was carried out for 15 days at RT and the methyl ester was obtained as a yellow solid (203 mg, 17%). (±)-(E)-3-[1′-(2-Phenyl-ethyl)-4-oxo-spiro(chromane-2,4′-azepane)-6-yl]-acrylic acid methyl ester (200 mg, 0.48 mmol) was hydrolyzed with HCl and AcOH following the procedure described in Example 22, Step A, giving (±)-(E)-3-[1′-(2-phenyl-ethyl)-4-oxo-spiro(chromane-2,4′-azepane)-6-yl]-acrylic acid as a white solid (197 mg, 93%). The acid was treated with NH2OTHP according to the procedure described in Example 22, Step C, giving (E)-3-[1′(2-phenyl-ethyl)-4-oxo-spiro(chromane-2,4′-azepane)-6-yl]-N-(tetrahydro-pyran-2-yloxy)-acrylamide (183 mg, 83%). Finally, removal of THP protecting group following the procedure described in Example 22, Step D and purification using preparative HPLC gave (±)-(E)-3-[1′-(2-phenyl-ethyl)-4-oxo-spiro(chromane-2,4′-azepane)-6-yl]N-hydroxy-acrylamide (77.5 mg, 40%) as its trifluoroacetate salt.

reactant | (±)-(E)-3-[1′-(2-Phenyl-ethyl)-4-oxo-spiro(chromane-2,4′-azepane)-6-yl]-acrylic acid methyl ester | 0.48 mmol, 200 mg | COC(\C=C\C=1C=C2C(CC3(CCN(CCC3)CCC3=CC=CC=C3)OC2=CC1)=O)=O | C26H29NO4
reactant | HCl | Cl | ClH
solvent | AcOH | CC(=O)O | C2H4O2
product | (±)-(E)-3-[1′-(2-phenyl-ethyl)-4-oxo-spiro(chromane-2,4′-azepane)-6-yl]-acrylic acid | 197 mg, 93% | C1(=CC=CC=C1)CCN1CCC2(CCC1)OC1=CC=C(C=C1C(C2)=O)/C=C/C(=O)O | C25H27NO4
